US06627651B1
Into a solution of N-methyl-N-(tetrahydropyran-4-yl)-4-methoxybenzylamine (2.19 g) in dichloromethane (20 ml) was added at −78° C. a solution of boron tribromide in dichloromethane (11 ml). After gradually raising the temperature from −78° C. to room temperature, the resulting mixture was stirred for 2 hours, an additional solution of boron tribromide in dichloromethane (5 ml) was again added thereto, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was mixed with an aqueous solution of sodium bicarbonate under ice cooling and was extracted with dichloromethane, and the extract was concentrated under reduced pressure. Thereto were added 1 N hydrochloric acid and diethyl ether to extract the aqueous layer. The extract was adjusted to pH 8 by adding an aqueous solution of potassium carbonate and was then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, was dried (anhydrous magnesium sulfate) and was then concentrated under reduced pressure. The residue was subjected to purification using silica gel column chromatography (ethyl acetate/methanol) to obtain N-methyl-N-(tetrahydropyran-4-yl)-4-hydroxybenzylamine (206 mg) as a light yellow, oily substance.

reactant | N-methyl-N-(tetrahydropyran-4-yl)-4-methoxybenzylamine | 2.19 g | CN(C1CCOCC1)CC1=CC=C(C=C1)OC | C14H21NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-methyl-N-(tetrahydropyran-4-yl)-4-hydroxybenzylamine | 206 mg | CN(C1CCOCC1)CC1=CC=C(C=C1)O | C13H19NO2
